*==============================================
*Copyright (c) 1997 MicroCode Engineering, Inc.
*All Rights Reserved
*==============================================

*===========================================
*Triac pinout: MT2 G MT1
*===========================================

*MAC15A6 MCE 2-27-96
*400V 15A pkg:TO-220 2,3,1
.SUBCKT MAC15A6  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  40MEG
RT2 1 7  18.8M
RH  7 6  87.5
RGP 8 3  23.1
RG  2 8  11.5
RS  8 4  102
DN  9 2  DIN OFF
RN  9 3  41.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 18.1M
DP 2 10  DIP OFF
RP 10 3  29.5
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=400)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=4.02N TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=4.02N CJC=804P TF=2.55U)
.ENDS MAC15A6

*===========================================
*MAC15A8 MCE 2-27-96
*600V 15A pkg:TO-220 2,3,1
.SUBCKT MAC15A8  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  60MEG
RT2 1 7  18.8M
RH  7 6  87.5
RGP 8 3  23.1
RG  2 8  11.5
RS  8 4  102
DN  9 2  DIN OFF
RN  9 3  41.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 18.1M
DP 2 10  DIP OFF
RP 10 3  29.5
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=600)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=4.02N TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=4.02N CJC=804P TF=2.55U)
.ENDS MAC15A8

*===========================================
*MAC210-4 MCE 2-27-96
*200V 10A pkg:TO-220 2,3,1
.SUBCKT MAC210-4  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  20MEG
RT2 1 7  21.1M
RH  7 6  87.5
RGP 8 3  50
RG  2 8  25
RS  8 4  75
DN  9 2  DIN OFF
RN  9 3  65.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 21.6M
DP 2 10  DIP OFF
RP 10 3  55.6
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=200)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=201P TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=201P CJC=40.2P TF=2.55U)
.ENDS MAC210-4

*===========================================
*MAC210-6 MCE 2-27-96
*400V 10A pkg:TO-220 2,3,1
.SUBCKT MAC210-6  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  40MEG
RT2 1 7  21.1M
RH  7 6  87.5
RGP 8 3  50
RG  2 8  25
RS  8 4  75
DN  9 2  DIN OFF
RN  9 3  65.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 21.6M
DP 2 10  DIP OFF
RP 10 3  55.6
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=400)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=201P TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=201P CJC=40.2P TF=2.55U)
.ENDS MAC210-6

*===========================================
*MAC210-8 MCE 2-27-96
*600V 10A pkg:TO-220 2,3,1
.SUBCKT MAC210-8  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  60MEG
RT2 1 7  21.1M
RH  7 6  87.5
RGP 8 3  50
RG  2 8  25
RS  8 4  75
DN  9 2  DIN OFF
RN  9 3  65.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 21.6M
DP 2 10  DIP OFF
RP 10 3  55.6
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=600)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=201P TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=201P CJC=40.2P TF=2.55U)
.ENDS MAC210-8

*===========================================
*MAC210-10 MCE 2-27-96
*800V 10A pkg:TO-220 2,3,1
.SUBCKT MAC210-10  1  2  3
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  80MEG
RT2 1 7  21.1M
RH  7 6  87.5
RGP 8 3  50
RG  2 8  25
RS  8 4  75
DN  9 2  DIN OFF
RN  9 3  65.6
GNN  6 7 9 3 15.2M
GNP  4 5 9 3 21.6M
DP 2 10  DIP OFF
RP 10 3  55.6
GP  7 6 10 3 10.3M
.MODEL DIN  D (IS=45.8F)
.MODEL DIP  D (IS=45.8F N=1.2)
.MODEL DZ   D (IS=45.8F N=1.5 IBV=10U BV=800)
.MODEL POUT PNP (IS=45.8F BF=5 CJE=201P TF=38.2U)
.MODEL NOUT NPN (IS=45.8F BF=20 CJE=201P CJC=40.2P TF=2.55U)
.ENDS MAC210-10
**********

*===========================================
*SCR - pin order: A G K
*===========================================

*Default SCR
.SUBCKT SCR  1 2 3
Q1 2 4 1 QPSCR AREA=.67 OFF
Q2 4 2 3 QNSCR AREA=.67
Q3 5 4 1 QPSCR AREA=.33 OFF
Q4 4 5 3 QNSCR AREA=.33
RBN 2 5 40
.MODEL QNSCR NPN(TF=400NS TR=1.6US CJC=75PF CJE=175PF XTB=2.5
+ IS=1E-14 ISE=3E-9 NE=2 BF=100 BR=25 ISC=3E-9 NC=2)
.MODEL QPSCR PNP(TF=90NS TR=180NS CJC=75PF CJE=80PF XTB=2.5 
+ IS=1E-14 ISE=3E-9 NE=2 BF=50 BR=25 ISC=3E-9 NC=2 RE=.03)
.ENDS SCR

*===========================================
*300V  8A
.SUBCKT 2N4171  1 2 3
*    TERMINALS:   A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    600K
RR  1 4    400K
RGK 6 5    112
RG  2 6    4.61
RK  3 5    8.13M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2F IBV=100U BV=300 RS=90K)
.MODEL ZR   D (IS=3.2F IBV=100U BV=400)
.MODEL ZGK  D (IS=3.2F IBV=100U BV=5)
.MODEL POUT PNP (IS=3.2P BF=1 CJE=670P)
.MODEL NOUT NPN (IS=3.2P BF=100 RC=32.5M
+ CJE=670P CJC=134P TF=179N TR=25.5U)
.ENDS 2N4171 

*===========================================
*2N5060 MCE 4-30-97
*Ref: Motorola Thyristor Device Data, Q2/95
*30V 1A pkg:TO-92B 1,2,3
.SUBCKT 2N5060   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    6MEG
RR  1 4    4MEG
RGK 6 5    240
RG  2 6    4.05
RK  3 5    0.15
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2E-16 IBV=1U BV=30)
.MODEL ZR   D (IS=3.2E-16 IBV=1U BV=30)
.MODEL ZGK  D (IS=3.2E-16 IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=112P TF=17U)
.MODEL NOUT NPN (IS=320F BF=100 RC=0.6 CJE=558P CJC=112P TF=5.44U)
.ENDS

*===========================================
*2N5061 MCE 4-30-97
*Ref: Motorola Thyristor Device Data, Q2/95
*60V 1A pkg:TO-92B 1,2,3
.SUBCKT 2N5061   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    12MEG
RR  1 4    8MEG
RGK 6 5    240
RG  2 6    4.05
RK  3 5    0.15
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2E-16 IBV=1U BV=60)
.MODEL ZR   D (IS=3.2E-16 IBV=1U BV=60)
.MODEL ZGK  D (IS=3.2E-16 IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=112P TF=17U)
.MODEL NOUT NPN (IS=320F BF=100 RC=0.6 CJE=558P CJC=112P TF=5.44U)
.ENDS

*===========================================
*2N5062 MCE 4-30-97
*Ref: Motorola Thyristor Device Data, Q2/95
*100V 1A pkg:TO-92B 1,2,3
.SUBCKT 2N5062   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    20MEG
RR  1 4    13.3MEG
RGK 6 5    240
RG  2 6    4.05
RK  3 5    0.15
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2E-16 IBV=1U BV=100)
.MODEL ZR   D (IS=3.2E-16 IBV=1U BV=100)
.MODEL ZGK  D (IS=3.2E-16 IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=112P TF=51U)
.MODEL NOUT NPN (IS=320F BF=100 RC=0.6 CJE=558P CJC=112P TF=5.44U)
.ENDS

*===========================================
*2N5064 MCE 4-30-97
*Ref: Motorola Thyristor Device Data, Q2/95
*200V 1A pkg:TO-92B 1,2,3
.SUBCKT 2N5064   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    40MEG
RR  1 4    26.7MEG
RGK 6 5    240
RG  2 6    4.05
RK  3 5    0.15
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2E-16 IBV=1U BV=200)
.MODEL ZR   D (IS=3.2E-16 IBV=1U BV=200)
.MODEL ZGK  D (IS=3.2E-16 IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=112P TF=51U)
.MODEL NOUT NPN (IS=320F BF=100 RC=0.6 CJE=558P CJC=112P TF=5.44U)
.ENDS

*===========================================
*2N6237 MCE 4-30-97
*Ref: Motorola Thyristor Device Data, Q2/95
*50V 3A pkg:TO-126 2,3,1
.SUBCKT 2N6237   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    10MEG
RR  1 4    6.67MEG
RGK 6 5    300
RG  2 6    25
RK  3 5    29.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.04F IBV=1U BV=50)
.MODEL ZR   D (IS=1.04F IBV=1U BV=50)
.MODEL ZGK  D (IS=1.04F IBV=1U BV=6)
.MODEL POUT PNP (IS=1.04P BF=1 CJE=335P TF=51U)
.MODEL NOUT NPN (IS=1.04P BF=100 RC=0.117 CJE=1.68N CJC=335P TF=3.4U)
.ENDS

*===========================================
*2N6238 MCE 4-30-97
*Ref: Motorola Thyristor Device Data, Q2/95
*100V 3A pkg:TO-126 2,3,1
.SUBCKT 2N6238   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    20MEG
RR  1 4    13.3MEG
RGK 6 5    300
RG  2 6    25
RK  3 5    29.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.04F IBV=1U BV=100)
.MODEL ZR   D (IS=1.04F IBV=1U BV=100)
.MODEL ZGK  D (IS=1.04F IBV=1U BV=6)
.MODEL POUT PNP (IS=1.04P BF=1 CJE=335P TF=51U)
.MODEL NOUT NPN (IS=1.04P BF=100 RC=0.117 CJE=1.68N CJC=335P TF=3.4U)
.ENDS

*===========================================
*2N6239 MCE 4-30-97
*Ref: Motorola Thyristor Device Data, Q2/95
*200V 3A pkg:TO-126 2,3,1
.SUBCKT 2N6239   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    40MEG
RR  1 4    26.7MEG
RGK 6 5    300
RG  2 6    25
RK  3 5    29.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.04F IBV=1U BV=200)
.MODEL ZR   D (IS=1.04F IBV=1U BV=200)
.MODEL ZGK  D (IS=1.04F IBV=1U BV=2)
.MODEL POUT PNP (IS=1.04P BF=1 CJE=335P TF=51U)
.MODEL NOUT NPN (IS=1.04P BF=100 RC=0.117 CJE=1.68N CJC=335P TF=3.4U)
.ENDS

*===========================================
*2N6240 MCE 4-30-97
*Ref: Motorola Thyristor Device Data, Q2/95
*400V 3A pkg:TO-126 2,3,1
.SUBCKT 2N6240   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    80MEG
RR  1 4    53.3MEG
RGK 6 5    300
RG  2 6    25
RK  3 5    29.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.04F IBV=1U BV=400)
.MODEL ZR   D (IS=1.04F IBV=1U BV=400)
.MODEL ZGK  D (IS=1.04F IBV=1U BV=2)
.MODEL POUT PNP (IS=1.04P BF=1 CJE=335P TF=51U)
.MODEL NOUT NPN (IS=1.04P BF=100 RC=0.117 CJE=1.68N CJC=335P TF=3.4U)
.ENDS

*===========================================
*2N6241 MCE 4-30-97
*Ref: Motorola Thyristor Device Data, Q2/95
*600V 3A pkg:TO-126 2,3,1
.SUBCKT 2N6241   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    120MEG
RR  1 4    80MEG
RGK 6 5    300
RG  2 6    25
RK  3 5    29.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.04F IBV=1U BV=600)
.MODEL ZR   D (IS=1.04F IBV=1U BV=600)
.MODEL ZGK  D (IS=1.04F IBV=1U BV=2)
.MODEL POUT PNP (IS=1.04P BF=1 CJE=335P TF=51U)
.MODEL NOUT NPN (IS=1.04P BF=100 RC=0.117 CJE=1.68N CJC=335P TF=3.4U)
.ENDS
*=================================
*2N5063 MCE 5-21-97
*Ref: Teccor general catalog 95/96
*150V 1A pkg:TO-92B 1,2,3
.SUBCKT 2N5063  1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    300MEG
RR  1 4    200MEG
RGK 6 5    240
RG  2 6    9.05
RK  3 5    0.15
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2E-16 IBV=100N BV=150)
.MODEL ZR   D (IS=3.2E-16 IBV=100N BV=150)
.MODEL ZGK  D (IS=3.2E-16 IBV=100N BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=134P TF=8.06U)
.MODEL NOUT NPN (IS=320F BF=100 RC=0.6 CJE=670P CJC=134P TF=538N)
.ENDS
*=================================
*2N6564 MCE 5-21-97
*Ref: Teccor general catalog 95/96
*300V 1A pkg:TO-92B 1,2,3
.SUBCKT 2N6564  1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    600MEG
RR  1 4    400MEG
RGK 6 5    240
RG  2 6    9.05
RK  3 5    0.15
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2E-16 IBV=100N BV=300)
.MODEL ZR   D (IS=3.2E-16 IBV=100N BV=300)
.MODEL ZGK  D (IS=3.2E-16 IBV=100N BV=6)
.MODEL POUT PNP (IS=320F BF=1 CJE=134P TF=8.06U)
.MODEL NOUT NPN (IS=320F BF=100 RC=0.6 CJE=670P CJC=134P TF=538N)
.ENDS
*=================================
*2N6565 MCE 5-21-97
*Ref: Teccor general catalog 95/96
*400V 1A pkg:TO-92B 1,2,3
.SUBCKT 2N6565  1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    800MEG
RR  1 4    533MEG
RGK 6 5    240
RG  2 6    9.05
RK  3 5    0.15
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2E-16 IBV=100N BV=400)
.MODEL ZR   D (IS=3.2E-16 IBV=100N BV=400)
.MODEL ZGK  D (IS=3.2E-16 IBV=100N BV=6)
.MODEL POUT PNP (IS=320F BF=1 CJE=134P TF=8.06U)
.MODEL NOUT NPN (IS=320F BF=100 RC=0.6 CJE=670P CJC=134P TF=538N)
.ENDS
**********
